US07045544B2
tert-Butyl 4-[({5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indol-2-yl}carbonyl)-amino]phenylcarbamate
75 mg (0.21 mmol) of 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid from Example LIX, 61.55 mg (0.32 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide×HCl and 13.1 mg (0.11 mmol) of 4-dimethylaminopyridine are initially charged in 4 ml of dichloromethane. 44.6 mg (0.21 mmol) of tert-butyl 4-aminophenylcarbamate are added, and the mixture is stirred at RT for 3 hours. For work-up, the mixture is diluted and extracted with aqueous hydrochloric acid and dichloromethane. The organic phase is dried with sodium sulphate, filtered and dried under reduced pressure.

reactant | 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid | 0.21 mmol, 75 mg | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)O)(C)C | C21H22N2O3
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 0.32 mmol, 61.55 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | HCl | Cl | ClH
reactant | tert-butyl 4-aminophenylcarbamate | 0.21 mmol, 44.6 mg | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
catalyst | 4-dimethylaminopyridine | 0.11 mmol, 13.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-[({5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indol-2-yl}carbonyl)-amino]phenylcarbamate | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O)(C)C | C32H36N4O4
